US08455497B2
(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2S)-3-[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(2-pyridinylmethoxy)benzyl]propylcarbamate (337)
70 mg of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]methy}-2,2-dimethyl-4-[4-(2-pyridinylmethoxy)benzyl]-1,3-oxazolidine-3-carboxylate were dissolved in 15 mL of isopropanol and 5 ml of concentrated hydrochloric acid. After 2 h, the reaction was treated with excess 3N sodium hydroxide and extracted with ethyl acetate. Evaporation of the solvent gave 67 mg of the desired product. 1H NMR: 08.3 (6H, dd), 1.4-1.8 (4H, m), 2.6-3.2 (7H, m), 3.6 (2H, m), 3.75 (2H, m), 3.9 (2H, m), 4.25 (4H, bs), 4.95 (1H, d), 5.0 (1H, m), 5.6 (1H, d), 6.9 (2H, d), 6.95 (2H, d), 7.1 (2H, d), 7.2 (2H, m), 7.45 (1H, d), 7.7 (1H, t), 8.58 (1H, d).

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]methy}-2,2-dimethyl-4-[4-(2-pyridinylmethoxy)benzyl]-1,3-oxazolidine-3-carboxylate | 70 mg | O1CCOC2=C1C=CC(=C2)S(=O)(=O)N(CC(C)C)C[C@@H]2[C@@H](N(C(O2)(C)C)C(=O)O[C@H]2CO[C@H]1OCC[C@H]12)CC1=CC=C(C=C1)OCC1=NC=CC=C1 | C38H47N3O10S
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | isopropanol | 15 mL | C(C)(C)O | C3H8O
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2S)-3-[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(2-pyridinylmethoxy)benzyl]propylcarbamate | 67 mg | O1CCOC2=C1C=CC(=C2)S(=O)(=O)N(C[C@@H]([C@H](CC2=CC=C(C=C2)OCC2=NC=CC=C2)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C35H43N3O10S
